US07091222B2
2-Chloro-4-(1,2-dimethyl-1H-imidazol-4-ylethynyl)-pyridine
The title compound, MS: m/e=232.1 (M+H+), was prepared in accordance with the general method of example 1 from 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine and methyl iodide.

reactant | 2-chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | methyl iodide | CI | CH3I
product | 2-Chloro-4-(1,2-dimethyl-1H-imidazol-4-ylethynyl)-pyridine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C)C | C12H10ClN3
